US08426408B2
(1S,2S,3R,4R)-3-({5-chloro-2-[(1-ethyl-1H-pyrazol-4-yl)amino]pyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide
The title compound was prepared as described in Example 1, substituting 1-ethyl-1H-pyrazol-4-amine for 1-methyl-1H-pyrazol-4-amine in Example 1B along with substitution of (+)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide for (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide and 2,4,5-trichloropyrimidine for 2,4-dichloro-5-fluoropyrimidine in Example 1A. 1H NMR (501 MHz, DMSO-D6, T=90° C.) ppm 1.36 (t, J=7.2 Hz, 3H) 1.42 (d, J=8.8 Hz, 1H) 2.12 (d, J=8.8 Hz, 1H) 2.55 (d, J=8.3 Hz, 1H) 2.79 (s, 1H) 2.88 (s, 1H) 4.05 (q, J=7.2 Hz, 2H) 4.15 (t, J=7.8 Hz, 1H) 6.23-6.38 (m, 2H) 6.81-7.02 (m, 1H) 7.50 (s, 1H) 7.52 (d, J=7.4 Hz, 1H) 7.71 (s, 1H) 7.84 (s, 1H) 8.70 (s, 1H); MS (ESI(+)) m/e 374 (M+H)+.

reactant | 1-methyl-1H-pyrazol-4-amine | CN1N=CC(=C1)N | C4H7N3
reactant | (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C8H12N2O
reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | (1S,2S,3R,4R)-3-({5-chloro-2-[(1-ethyl-1H-pyrazol-4-yl)amino]pyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide | ClC=1C(=NC(=NC1)NC=1C=NN(C1)CC)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C17H20ClN7O
